US09034900B2
4-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-6-methylfuro[2,3-c]pyridin-7-one
A mixture of 2-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (115 mg, 0.33 mmol), 4-bromo-6-methyl-6H,7H-furo[2,3-c]pyridin-7-one (75 mg, 0.33 mmol), K3PO4 (175 mg, 0.83 mmol), Pd(dppf)Cl2 (24 mg, 10%) in dioxane/H2O (2.2 mL/200 uL) was bubbled with nitrogen for 5 min. The sealed vial was stirred at 70° C. for 90 min. The reaction mixture was filtered through a short plug of celite; the celite plug was washed with EtOAc (15 mL). The filtrate was washed with water and brine. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to afford a brown residue. The resulting residue was purified by prep-HPLC to afford the title compound (60 mg, 49%) as a white solid. LCMS (M+H)+=374.

reactant | 2-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.33 mmol, 115 mg | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C17H25BO5S
reactant | 4-bromo-6-methyl-6H,7H-furo[2,3-c]pyridin-7-one | 0.33 mmol, 75 mg | BrC=1C2=C(C(N(C1)C)=O)OC=C2 | C8H6BrNO2
reactant | K3PO4 | 0.83 mmol, 175 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane H2O | 2.2 mL | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 24 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-6-methylfuro[2,3-c]pyridin-7-one | 60 mg, 49% | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)C)C=1C2=C(C(N(C1)C)=O)OC=C2 | C19H19NO5S
